US07473695B2
In 440 ml of THF was suspended 22 g of 2-chloroisonicotinic acid, and under nitrogen flow, the mixture was cooled to −70° C. or lower, 245 ml of methyl lithium (1.14 M solution in diethyl ether) was added dropwise to the mixture. After stirring at the same temperature for an hour, a temperature of the mixture was raised to 0° C. over an hour, and stirred at the same temperature for further an hour. To the reaction mixture was added 500 ml of water, and the reaction mixture was extracted with ethyl acetate, washed with brine and dried over magnesium sulfate. Activated charcoal was added to the mixture, and after filtration, the filtrate was concentrated under reduced pressure to give 19.5 g of 4-acetyl-2-chloropyridine as colorless crystals. Melting point: 36° C.

reactant | 2-chloroisonicotinic acid | 22 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | methyl lithium | 1.14 M, 245 ml | C[Li]
reactant | water | 500 ml | O | H2O
solvent | THF | 440 ml | C1CCOC1 | C4H8O
product | 4-acetyl-2-chloropyridine | 19.5 g | C(C)(=O)C1=CC(=NC=C1)Cl | C7H6ClNO
